US07842685B2
A mixture of 2-(4-bromo-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (76.8 mg, 0.181 mmol), tert-butyl 3-aminopropanoate hydrochloride (43 mg, 0.235 mmol), Pd2(dba)3 (4.1 mg, 4.5 μmol), Xantphos (10 mg, 18 μmol) and sodium tert-butoxide (45 mg, 0.469 mmol) in toluene (1.9 mL) was heated under argon at 80° C. for 18 h, then at 130° C. (microwave) for 30 min, then at 150° C. (microwave) for 30 min. The reaction mixture was then cooled to 25° C. and concentrated onto silica gel. Chromatographic purification (silica gel, 0-50% EtOAc/hexanes) furnished tert-butyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)-propanoate as a yellow solid. MS (ESI) m/z: Calculated: 489.2; Observed: 490.1 (M++1).

reactant | 2-(4-bromo-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 0.181 mmol, 76.8 mg | BrC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C21H14BrFN2S
reactant | tert-butyl 3-aminopropanoate hydrochloride | 0.235 mmol, 43 mg | Cl.NCCC(=O)OC(C)(C)C
reactant | Xantphos | 18 μmol, 10 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 0.469 mmol, 45 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 1.9 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 4.5 μmol, 4.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)-propanoate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NCCC(=O)OC(C)(C)C | C28H28FN3O2S
